US09029386B2
To a solution of benzaldehyde (0.1 mL, 1 mmol) and N-[(1S)-1-(3-aminophenyl)ethyl]-6-chloropyrazin-2-amine (248 mg, 1 mmol) in dichloroethane (5 mL) was added sodium triacetoxyborohydride (300 mg, 1.4 mmol) in one portion and the mixture was stirred at room temperature for 16 hours. After this time a solution of saturated aqueous sodium hydrogen carbonate (20 mL) was added and the mixture was stirred for 10 minutes. The mixture was extracted with ethyl acetate (2×20 mL) and the extracts washed with brine (20 mL), dried (Na2SO4) and concentrated under reduced pressure to give N-{(1S)-1-[3-(benzylamino)phenyl]ethyl}-6-chloropyrazin-2-amine (330 mg, 97%) as an off white solid of reasonable purity.

reactant | benzaldehyde | 1 mmol, 0.1 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | N-[(1S)-1-(3-aminophenyl)ethyl]-6-chloropyrazin-2-amine | 1 mmol, 248 mg | NC=1C=C(C=CC1)[C@H](C)NC1=NC(=CN=C1)Cl | C12H13ClN4
reactant | sodium triacetoxyborohydride | 1.4 mmol, 300 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | 20 mL | C(O)([O-])=O.[Na+]
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
product | N-{(1S)-1-[3-(benzylamino)phenyl]ethyl}-6-chloropyrazin-2-amine | 330 mg, 97% | C(C1=CC=CC=C1)NC=1C=C(C=CC1)[C@H](C)NC1=NC(=CN=C1)Cl | C19H19ClN4
